US07585881B2
4-(4-Cyclopropyl-4H-[1,2,4]triazol-3-yl)-pyridine
4-cyclopropyl-5-pyridin-4-yl-2,4-dihydro-3H-1,2,4-triazole-3-thione (11.11 g, 51 mmol) was slowly added to wet Raney nickel (90 g ) in EtOH (200 mL) in portions. The reaction mixture was heated at 60° C. for 3.5 h and then filtered through celite. The filtrate was concentrated to give the title compound (6.85 g, 72.3%). 1H-NMR: 8.76 (d, 2H), 8.71 (s, 1H), 7.95 (d, 2H), 3.75(m, 1H), 1.08 (m, 2H) and 0.94 (m, 2H).

reactant | 4-cyclopropyl-5-pyridin-4-yl-2,4-dihydro-3H-1,2,4-triazole-3-thione | 51 mmol, 11.11 g | C1(CC1)N1C(NN=C1C1=CC=NC=C1)=S | C10H10N4S
catalyst | Raney nickel | 90 g | [Ni] | Ni
solvent | EtOH | 200 mL | CCO | C2H6O
product | 4-(4-Cyclopropyl-4H-[1,2,4]triazol-3-yl)-pyridine | 6.85 g, 72.3% | C1(CC1)N1C(=NN=C1)C1=CC=NC=C1 | C10H10N4
